US07405210B2
Preparation 18: 5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid
Route B: A mixture of 6-chloro-4-iodopyridin-3-ylamine (Preparation 106, 0.33 g, 1.30 mmol), pyruvic acid (0.27 mL, 3.89 mmol), DABCO (0.44 g, 3.89 mmol) and palladium acetate (0.015 g, 0.07 mmol) in dry DMF was stirred vigorously and degassed with argon for 15 min. The reaction mixture was heated to 107° C. for 5 h. The reaction mixture was allowed to cool to rt and stirred for 16 h. The volatiles were removed under reduced pressure and the residue partitioned between ethyl acetate (100 mL) and water (50 mL). The layers were separated and the aqueous extracted with ethyl acetate (2×50 mL). The combined organics were extracted with aqueous NaOH (2M, 3×70 mL). The combined aqueous extracts were acidified to pH 4 by careful addition of glacial acetic acid, then extracted with ethyl acetate (3×60 mL). The combined organics were washed with brine (50 mL), dried (MgSO4), filtered and concentrated in vacuo to give the title compound as a brown solid. RT=2.72 min, m/z (ES+)=197 [M+H]+

reactant | 6-chloro-4-iodopyridin-3-ylamine | 1.30 mmol, 0.33 g | ClC1=CC(=C(C=N1)N)I | C5H4ClIN2
reactant | pyruvic acid | 3.89 mmol, 0.27 mL | C(C(=O)C)(=O)O | C3H4O3
reactant | DABCO | 3.89 mmol, 0.44 g | C1CN2CCN1CC2 | C6H12N2
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | palladium acetate | 0.07 mmol, 0.015 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid | ClC=1C=C2C(=CN1)NC(=C2)C(=O)O | C8H5ClN2O2
